US08034812B2
Production of 2-(imidazo[1,2-b]pyridazin-6-ylthio)-N-phenylbenzamide
To a mixture of 2-(imidazo[1,2-b]pyridazin-6-ylthio)benzoic acid (109 mg, 0.40 mmol), aniline (75 mg, 0.81 mmol), 1-hydroxybenzotriazole hydrate (61 mg, 0.40 mmol) and N,N-dimethylformamide (5 mL) were added 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (153 mg, 0.80 mmol) and triethylamine (0.167 mL, 1.20 mmol), and the mixture was stirred at room temperature for 18 hr. A 1N aqueous sodium hydroxide solution was added to the mixture and the mixture was extracted with ethyl acetate. The organic layer was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/methanol=100/0→80/20) and precipitated from ethyl acetate/diisopropyl ether to give the title compound (110 mg, 0.32 mmol, yield 79%) as a white solid.

reactant | 2-(imidazo[1,2-b]pyridazin-6-ylthio)benzoic acid | 0.40 mmol, 109 mg | N=1C=CN2N=C(C=CC21)SC2=C(C(=O)O)C=CC=C2 | C13H9N3O2S
reactant | aniline | 0.81 mmol, 75 mg | NC1=CC=CC=C1 | C6H7N
reactant | 1-hydroxybenzotriazole hydrate | 0.40 mmol, 61 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.80 mmol, 153 mg | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 1.20 mmol, 0.167 mL | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 2-(imidazo[1,2-b]pyridazin-6-ylthio)-N-phenylbenzamide | 0.32 mmol, 110 mg, yield 79% | N=1C=CN2N=C(C=CC21)SC2=C(C(=O)NC1=CC=CC=C1)C=CC=C2 | C19H14N4OS
